US08431713B2
Step D: Preparation of 5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-amine:
To 4-(2-methylpyridin-3-yloxy)pyridin-2-amine (3.67 g, 18.2 mmol) in acetic acid (50 mL) was added bromine (0.94 ml, 18.2 mmol). The reaction was stirred at ambient temperature for 5 minutes. Ammonium acetate (1.41 g, 18.2 mmol) was added. After 5 minutes, the solution was concentrated and saturated sodium bicarbonate solution was added. The reaction was extracted with ethyl acetate, dried and concentrated to give the title compound (5.0 g, 98% yield) as light yellow solid.

reactant | 4-(2-methylpyridin-3-yloxy)pyridin-2-amine | 18.2 mmol, 3.67 g | CC1=NC=CC=C1OC1=CC(=NC=C1)N | C11H11N3O
reactant | bromine | 18.2 mmol, 0.94 ml | BrBr | Br2
reactant | Ammonium acetate | 18.2 mmol, 1.41 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-amine | 5.0 g, 98% yield | BrC=1C(=CC(=NC1)N)OC=1C(=NC=CC1)C | C11H10BrN3O
